US06071916
2-Iodophenol (500 mg, 2.27 mmol), propargyl alcohol (265 μl, 4.54 mmol), Pd(OAc)2, (5.1 mg, 0.03 mmol), triphenylphosphine (12 mg, 0.046 mmol), n-butylamine (450 μL, 4.5 mmol) and CuI (8.6 mg, 0.045 mmol) were combined in 4.5 mL of THF and the mixture was heated at 40° C. under nitrogen for 36 h. The mixture was cooled to room temperature and the solvents were removed in vacuo and the residue purified by SiO2 column chromatography on 100 g of silica gel, eluting with 20% ethyl acetate in hexanes. 2-(Hydroxymethyl)-benzofuran was obtained by concentration of the product containing fractions. [Kudu, N. G.; Pal, M.; Mahanty, J. S.; Dasgupta, F. K. JCS Chem. Com. 1992, 41]

reactant | 2-Iodophenol | 2.27 mmol, 500 mg | IC1=C(C=CC=C1)O | C6H5IO
reactant | propargyl alcohol | 4.54 mmol, 265 μl | C(C#C)O | C3H4O
reactant | triphenylphosphine | 0.046 mmol, 12 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 4.5 mmol, 450 μL | C(CCC)N | C4H11N
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.03 mmol, 5.1 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.045 mmol, 8.6 mg | [Cu]I
product | 2-(Hydroxymethyl)-benzofuran | OCC=1OC2=C(C1)C=CC=C2 | C9H8O2
